US08138197B2
2-Chloro-6-benzyloxypyridine-4-carboxylic acid
With cooling with ice, benzyl alcohol (3.4 mL) was dropwise added to a DMF (100 mL) suspension of sodium hydride (3.2 g). This was stirred at that temperature for 1 hour, then a DMF (30 mL) solution of 2,6-dichloropyridine-4-carboxylic acid (6.38 g) was dropwise added to the reaction solution with cooling with ice, and stirred at that temperature for 1 hour and 30 minutes and then overnight at 90° C. With cooling with ice, diluted hydrochloric acid was added to it, and extracted with ethyl acetate. The organic layer was washed with saturated saline water, dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure. A mixed solution of hexane/ethyl acetate=2/1 was added to the residue, and the formed precipitate was removed. The filtrate was concentrated under reduced pressure to obtain the title compound as a yellow oil. Not purified, this was used in the next step.

reactant | benzyl alcohol | 3.4 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 3.2 g | [H-].[Na+]
reactant | 2,6-dichloropyridine-4-carboxylic acid | 6.38 g | ClC1=NC(=CC(=C1)C(=O)O)Cl | C6H3Cl2NO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-6-benzyloxypyridine-4-carboxylic acid | ClC1=NC(=CC(=C1)C(=O)O)OCC1=CC=CC=C1 | C13H10ClNO3
